US05428040
Nitrogen gas was bubbled through a mixture of the product of part e (0.611 g, 27 mmol) and phenylboric acid (0.36 g, 29 mmol) in 5:2 toluene/ethanol(30 mL) for 4 hours. Sodium carbonate (0.57 g, 5.38 mmol) was added followed by tetrabutylammonium bromide (0.049 g, 0.13 mmol) and tetrakis(triphenylphosphine)palladium (0.012 g, 0.04 mmol). The solution was heated at reflux for 18 h, cooled to room temperature, and evaporated. The residue was taken up in water (50 mL) and extracted with ethyl acetate (3×20 mL). The organics were combined, washed with brine, dried and evaporated. The solid was recrystallized from hexane to provide 0.429 g (70%) of 7-phenylisochroman-4-one as a gold-colored solid, mp 127°-128° C.: 1H NMR (CDCl3) δ8.12 (d, 1H), 7.60-7.66 (m, 3H), 7.39-7.51 (m, 4H), 4.96 (s, 2 H), 4.41 (s, 2H); IR (KBr) 1688 cm-1 ; Mass spectrum m/z=225 (M+H); Anal. calcd. for C15H12O2 : C 80.34, H 5.39; Found: C 80.03, H 5.45.

reactant | phenylboric acid | 29 mmol, 0.36 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | Sodium carbonate | 5.38 mmol, 0.57 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene ethanol | 30 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrabutylammonium bromide | 0.13 mmol, 0.049 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-phenylisochroman-4-one | 0.429 g, 70% | C1(=CC=CC=C1)C1=CC=C2C(COCC2=C1)=O | C15H12O2
